US04663336
A. 4-Cyclohexylbutanoic acid
4-Phenylbutanoic acid prepared as described in Example 56, Part A was dissolved in glacial acetic acid (25 ml). Platinum oxide (0.1 g) was added and the solution was hydrogenated in the Paar shaker at up to 55 p.s.i. until hydrogen uptake ceased (6.5 hours). The catalyst was removed by filtration and the acetic acid was removed in vacuo. The product crystallized and was recrystallized from Et2O (20 ml) to give title compound (1.18 g, 77%), m.p. 85°-88° C.

reactant | 4-Phenylbutanoic acid | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | Platinum oxide | 0.1 g | [Pt]=O
product | 4-Cyclohexylbutanoic acid | 1.18 g, 77% | C1(CCCCC1)CCCC(=O)O | C10H18O2
